US09145414B2
3-((1R,2S)-2-aminocyclohexylamino)-5-(benzo[b]thiophen-4-ylamino)-1,2,4-triazine-6-carboxamide
A 7 M ammonia-methanol solution (2 ml) was added to ethyl 5-(benzo[b]thiophen-4-ylamino)-3-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-1,2,4-triazine-6-carboxylate obtained in the above-described Step 2 (71.8 mg), and then the reaction solution was allowed to react in a microwave reactor at 130° C. for 1 hour. The solvent was evaporated under vacuum, then trifluoroacetic acid (0.5 ml) was added to the resultant residue, and the reaction solution was stirred at room temperature for 5 minutes. The solvent was evaporated under vacuum, and then the resultant residue was purified by column chromatography on basic silica gel (developing solvent:hexane/ethyl acetate) to obtain the titled compound as a white solid.

reactant | ammonia methanol | 7 M, 2 ml | N.CO
reactant | ethyl 5-(benzo[b]thiophen-4-ylamino)-3-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-1,2,4-triazine-6-carboxylate | S1C2=C(C=C1)C(=CC=C2)NC=2N=C(N=NC2C(=O)OCC)N[C@H]2[C@H](CCCC2)NC(=O)OC(C)(C)C | C25H32N6O4S
product | 3-((1R,2S)-2-aminocyclohexylamino)-5-(benzo[b]thiophen-4-ylamino)-1,2,4-triazine-6-carboxamide | N[C@@H]1[C@@H](CCCC1)NC=1N=NC(=C(N1)NC1=CC=CC=2SC=CC21)C(=O)N | C18H21N7OS
